US08431538B2
(4-Carbazol-9-ylmethyl-phenyl)acetic acid methyl ester (25)
Carbazole (1.0 g, 6.0 mmol) and sodium hydride (60 wt. % in mineral oil, 0.14 g, 6.0 mmol) were placed under argon and dissolved in DMF (5 mL). The mixture was stirred at room temperature for 30 min, followed by treatment with (4-bromomethylphenyl)acetic acid methyl ester (1.5 g, 6.0 mmol) and 5 mg of potassium iodide. The reaction was heated to 80° C. for 2 h. The reaction was then diluted with ethyl acetate (30 mL) and water (30 mL). The organic layer was isolated and the aqueous layer extracted with ethyl acetate (2×10 mL). The combined organic layers were washed with water (2×20 mL), brine (15 mL), dried (Na2SO4) and concentrated in vacuo. Purification by column chromatography (0-80% gradient of ethyl acetate in hexane) afforded the title compound (0.71 g, 36%) as a yellow oil. 1H NMR (400 MHz, CDCl3): 8.20 (d, 2H, J=7.7 Hz), 7.49 (m, 2H), 7.40 (d, 2H, J=8.1 Hz), 7.32 (m, 2H), 7.17 (d, 2H, J=8.1 Hz), 7.12 (d, 2H, J=8.1 Hz), 5.52 (s, 2H), 3.71 (s, 3H), 3.61 (s, 2H). 13C NMR (100 MHz, CDCl3): δ 171.6, 140.3, 135.7, 132.8, 129.3, 126.5, 125.5, 122.8, 120.1, 118.9, 108.5, 51.7, 45.9, 40.4. ESI-HRMS (m/z): [M+H]+ calcd. for C22H19NO2, 330.1489. found, 330.1494.

reactant | Carbazole | 6.0 mmol, 1.0 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | sodium hydride | 6.0 mmol, 0.14 g | [H-].[Na+]
reactant | (4-bromomethylphenyl)acetic acid methyl ester | 6.0 mmol, 1.5 g | COC(CC1=CC=C(C=C1)CBr)=O | C10H11BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 30 mL | O | H2O
catalyst | potassium iodide | 5 mg | [I-].[K+]
product | (4-Carbazol-9-ylmethyl-phenyl)acetic acid methyl ester | 0.71 g, 36% | COC(CC1=CC=C(C=C1)CN1C2=CC=CC=C2C=2C=CC=CC12)=O | C22H19NO2
